US05225402
To N-(1-benzyl-4-piperidinyl)-2-formyl-3-methylaniline (7.0 g) are added methanol (100 ml) and methyl (triphenylphosphoranylidene)acetate (15 g) and the mixture is refluxed for 1 hour. After cooling, the formed crystals are separated by filtration to give methyl 2-methyl-5-[(1-benzyl-4-piperidinyl)amino]cinnamate (5.6 g) as pale yellow powders, m.p. 140°-142° C.

reactant | N-(1-benzyl-4-piperidinyl)-2-formyl-3-methylaniline | 7.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C(=CC=C1)C)C=O | C20H24N2O
reactant | methyl (triphenylphosphoranylidene)acetate | 15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | methanol | 100 ml | CO | CH4O
product | methyl 2-methyl-5-[(1-benzyl-4-piperidinyl)amino]cinnamate | 5.6 g | CC1=C(C=CC(=O)OC)C=C(C=C1)NC1CCN(CC1)CC1=CC=CC=C1 | C23H28N2O2
